US09023858B2
2-(ethylsulfanyl)-8-methyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
2-(Ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (120 mg) and iodomethane (37.8 μl) were dissolved in N,N-dimethylformamide (2 ml), sodium hydride (60% in oil, 86 mg) was added thereto under ice-cooling, and the mixture was stirred for 45 min. 0.5M Hydrochloric acid (6 ml) was added thereto under ice-cooling, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained white solid residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (123 mg) as a white solid.

reactant | 2-(Ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 120 mg | C(C)SC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H14F3N3O3S
reactant | iodomethane | 37.8 μl | IC | CH3I
reactant | sodium hydride | 86 mg | [H-].[Na+]
reactant | Hydrochloric acid | 0.5M, 6 ml | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(ethylsulfanyl)-8-methyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 123 mg | C(C)SC=1N(C(C2=C(N1)N(C(C=C2)=O)C)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O3S
